US07091352B2
2) (S)-5-(4-Chlorophenyl)-3-(1,2,3,5,8,8a-hexahydroindolizin-7-yl)-4-(pyridin-4-yl)pyrazole
Following a procedure similar to that described in Example 2-2), but using 5-(4-chlorophenyl)-4-(pyridin-4-yl)-1-(2-trimethylsilylethoxy)methylpyrazole prepared as described in 1) instead of 3-bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole, and using (S)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one instead of (±)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one, the resulting product was subjected to a dehydration reaction as described in Example 3 and then treated by column chromatography through silica gel (eluent, ethyl acetate:methanol:isopropylamine=10:1:1), to give the title compound (Rf=0.50, 357 mg) as a pale brown powder (yield 4%).

reactant | 5-(4-chlorophenyl)-4-(pyridin-4-yl)-1-(2-trimethylsilylethoxy)methylpyrazole | ClC1=CC=C(C=C1)C1=C(C=NN1COCC[Si](C)(C)C)C1=CC=NC=C1 | C20H24ClN3OSi
reactant | 3-bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | BrC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H9BrFN3
reactant | (S)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | C1CCN2CCC(C[C@H]12)=O | C8H13NO
product | (S)-5-(4-Chlorophenyl)-3-(1,2,3,5,8,8a-hexahydroindolizin-7-yl)-4-(pyridin-4-yl)pyrazole | 357 mg, yield 4% | ClC1=CC=C(C=C1)C1=C(C(=NN1)C1=CCN2CCC[C@H]2C1)C1=CC=NC=C1 | C22H21ClN4
